US07723347B2
4-{4-[(2-Aminopyrimidin-4-yl)amino]-2-fluorobenzyl}-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile
120 mg (0.45 mmol) of 4-(4-amino-2-fluorobenzyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile and 64 mg (0.50 mmol) of 4-chloropyrimidine-2-amine are suspended in 4 ml of water, 2 ml of ethanol and 0.23 ml of 4N hydrochloric acid. The reaction mixture is heated at reflux for 2 hours. After cooling, the mixture is made alkaline using dilute aqueous sodium hydroxide solution, a little methanol is added, the mixture is extracted with ethyl acetate and the solvent is removed under reduced pressure. The residue is purified by preparative HPLC. This gives crystals.

reactant | 4-(4-amino-2-fluorobenzyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 0.45 mmol, 120 mg | NC1=CC(=C(CC2=C3C(=NC=C2)NC=C3C#N)C=C1)F | C15H11FN4
reactant | 4-chloropyrimidine-2-amine | 0.50 mmol, 64 mg | ClC1=NC(=NC=C1)N | C4H4ClN3
reactant | hydrochloric acid | 4N, 0.23 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 4 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 4-{4-[(2-Aminopyrimidin-4-yl)amino]-2-fluorobenzyl}-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | NC1=NC=CC(=N1)NC1=CC(=C(CC2=C3C(=NC=C2)NC=C3C#N)C=C1)F | C19H14FN7
